Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Drug Allergy Information on File
 
Attending: ___.
 
Chief Complaint:
EKG changes 
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___ 

 
History of Present Illness:
___ yo female with COPD, pulm HTN, TR who presented to OSH after 
a stranger knocked into her at her assisted living facility 
causing her to fall and fracture her left hip.  She did not have 
any LOC.  In addition, she sustained a laceration to her right 
lower leg and received 6 stiches at OSH.  At OSH, pt had CT scan 
of Left hip which showed a cervical neck fracture of the left 
proximal femur.  She had a routine pre-op evaluation; however 
her pre-op EKG showed ST elevations in V2-V4.  The patient was 
completely asymptomatic.  She denied chest pain or pressure.  
Her SOB was at baseline.  She did have some nausea, vomiting and 
diaphoresis at the OSH.  She was transferred to ___ for 
cardiac cath.  Her cardiac cath earlier today showed clean 
coronaries.  The patient tolerated the procedure without 
complication.  The orthopedic team was consulted for management 
of her hip fracture.  
.
The patient denies any chest pain or pressure currently.  She 
reports that she does not want to undergo hip repair despite 
being informed of the risks.  She refuses to go to get x-rays 
for further evaluation.   
.
ROS:  She denies any prior history of stroke, TIA, deep venous 
thrombosis, pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, cough, or hemoptysis. She denies recent 
fevers, chills or rigors. She denies exertional buttock or calf 
pain. Has occasional abdominal pain, alternating diarrhea and 
constipation but has not had a colonoscopy, occasional blood in 
stool with straining.
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
Pulmonary HTN
Tricuspid regurgitation
CPD
Osteoporosis c/b thoracic spine fracture resulting in chronic 
mid back pain
Hypertension
h/o pyelonephritis 
h/o left hydronephrosis of uncertain eitology
h/o pneumonia - required stay in rehab prior to transfer to 
assisted living
s/p appendectomy
s/p oophrectomy
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
VS: T=98.1 BP=102/49 HR=63 RR=15 O2 sat=96% 4L 
GENERAL: thin elderly female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with no JVD.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: LLE shortened and externally rotated. No c/c/e. No 
femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
___ 09:28PM BLOOD WBC-10.4 RBC-3.87* Hgb-12.0 Hct-36.9 
MCV-95 MCH-31.0 MCHC-32.5 RDW-13.5 Plt ___
___ 03:58AM BLOOD WBC-10.5 RBC-3.75* Hgb-11.7* Hct-35.4* 
MCV-94 MCH-31.2 MCHC-33.1 RDW-13.4 Plt ___
___ 09:28PM BLOOD Glucose-123* UreaN-27* Creat-1.2* Na-132* 
K-5.5* Cl-101 HCO3-26 AnGap-11
___ 03:58AM BLOOD Glucose-105 UreaN-28* Creat-1.2* Na-133 
K-5.5* Cl-101 HCO3-28 AnGap-10
___ 01:24PM BLOOD Glucose-158* UreaN-27* Creat-1.1 Na-135 
K-4.2 Cl-103 HCO3-25 AnGap-11
___ 09:28PM BLOOD CK(CPK)-52
___ 03:58AM BLOOD CK(CPK)-41
___ 01:24PM BLOOD ___
___ 09:28PM BLOOD Mg-1.9
___ 03:58AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.0
___ 01:24PM BLOOD Mg-1.8
___ 02:26PM BLOOD Type-ART O2 Flow-100 pO2-319* pCO2-58* 
pH-7.26* calTCO2-27 Base XS--1
___ 02:46PM BLOOD Type-ART pO2-74* pCO2-54* pH-7.27* 
calTCO2-26 Base XS--2 Intubat-NOT INTUBA
.
Cardiac Catheterization ___
1.  Coronary angiography in this right-dominant system revealed: 

--the ___ had no angiographically apparent disease 
--the LAD had no angiographically apparent disease 
--the LCX had no angiographically apparent disease 
--the RCA had a calcified proximal 50% stenosis. 
2.  Limited resting hemodynamics revealed elevated systemic 
arterial 
systolic pressures, with SBP 156 mmHg. 
FINAL DIAGNOSIS:     
1.  No obstructive CAD 
2.  Moderate systemic arterial systolic hypertension. 
.
___ TTE
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Atrium - Four Chamber Length:  4.7 cm  <= 5.2 cm  
Right Atrium - Four Chamber Length:  4.3 cm  <= 5.0 cm  
Left Ventricle - Septal Wall Thickness:  0.9 cm  0.6 - 1.1 cm  
Left Ventricle - Inferolateral Thickness:  0.8 cm  0.6 - 1.1 cm  

Left Ventricle - Diastolic Dimension:  3.1 cm  <= 5.6 cm  
Left Ventricle - Systolic Dimension:  1.8 cm     
Left Ventricle - Fractional Shortening:  0.42  >= 0.29  
Left Ventricle - Ejection Fraction:  70%  >= 55%  
Left Ventricle - Lateral Peak E':  0.10 m/s  > 0.08 m/s  
Left Ventricle - Septal Peak E':  *0.07 m/s  > 0.08 m/s  
Left Ventricle - Ratio E/E':  9  < 15  
Aortic Valve - Peak Velocity:  1.3 m/sec  <= 2.0 m/sec  
Mitral Valve - E Wave:  0.8 m/sec     
Mitral Valve - A Wave:  1.3 m/sec     
Mitral Valve - E/A ratio:  0.62     
Mitral Valve - E Wave deceleration time:  235 ms  140-250 ms  
TR Gradient (+ RA = PASP):  *59 to 66 mm Hg  <= 25 mm Hg  
 
Findings  
LEFT ATRIUM: Normal LA size. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. Increased IVC 
diameter (>2.1cm) with <35% decrease during respiration 
(estimated RA pressure (___). 
LEFT VENTRICLE: Normal LV wall thickness. Small LV cavity. 
Overall normal LVEF (>55%). No resting LVOT gradient. 
RIGHT VENTRICLE: RV hypertrophy. Dilated RV cavity. Borderline 
normal RV systolic function. Abnormal systolic septal 
motion/position consistent with RV pressure overload. 
AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. 
AORTIC VALVE: Moderately thickened aortic valve leaflets. 
Minimal AS. No AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. 
Moderate mitral annular calcification. Mild thickening of mitral 
valve chordae. Calcified tips of papillary muscles. No MS. ___ 
inflow pattern c/w impaired relaxation. 
TRICUSPID VALVE: Mildly thickened tricuspid valve leaflets. 
Normal tricuspid valve supporting structures. No TS. Moderate to 
severe [3+] TR. Severe PA systolic hypertension. 
PERICARDIUM: No pericardial effusion.  
Conclusions  
The left atrium is normal in size. The estimated right atrial 
pressure is ___. Left ventricular wall thicknesses are 
normal. The left ventricular cavity is small. Overall left 
ventricular systolic function is normal (LVEF 70%). The right 
ventricular free wall is hypertrophied. The right ventricular 
cavity is dilated with borderline normal free wall function. 
There is abnormal systolic septal motion/position consistent 
with right ventricular pressure overload. The aortic valve 
leaflets are moderately thickened. There is a minimally 
increased gradient consistent with minimal aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. The left ventricular inflow pattern suggests impaired 
relaxation. The tricuspid valve leaflets are mildly thickened. 
Moderate to severe [3+] tricuspid regurgitation is seen. There 
is severe pulmonary artery systolic hypertension. There is no 
pericardial effusion.   
.
___ CXR
The lung volumes are near normal, the hemidiaphragms are 
relatively low, but not flattened. Moderate scoliosis leads to 
asymmetry of the rib cage. In both lungs, right more than left, 
a reticular pattern of opacities is seen in both perihilar 
regions and in the right upper region.  Without comparison, the 
nature of these lesions is difficult to determine, they could be 
the result of fibrotic or a chronic inflammatory process, but 
could also result from chronic overhydration.   
Moderately enlarged cardiac silhouette, slightly enlarged right 
and left 
hilus, potentially suggesting pulmonary hypertension. No 
evidence of pleural effusions, no acute overhydration. Bilateral 
apical thickening. 
.
___ Lower extremity doppler U/S
Preliminary Report !! WET READ !!  
no dvt seen in either lower extremity 
.
___ CTA CHEST
Preliminary Report !! PFI !!  
Pulmonary embolus within the right middle lobe segmental artery. 
Bilateral pleural effusions. Extensive COPD, cardiomegaly, 
vascular calcifications. Areas of increased opacity in the right 
upper lobe may represent infection. Additional areas of opacity 
in the right middle lobe may represent infarct or atelectasis. 

 
Brief Hospital Course:
1) EKG changes - Perioperative EKG prior to transfer to ___ 
showed ST elevations in V3-V4 and to a lesser extent in 
II,III,F,V5-V6. TnI was 1.9 with normal CK. She was given 
aspirin, plavix, lovenox, and lopressor. A similar EKG was 
obtained upon transfer to ___. Cardiac cath ___ revealed a 
right-dominant system with a calcified 50% proximal stenosis in 
the RCA but no angiographically apparent disease in the LMCA, 
LAD, and LCX. TTE ___ revealed normal left atrial size with 
an estimated right atrial pressure ___, normal left 
ventricular wall thickness and a small left ventricular cavity, 
normal left ventricular systolic function (LVEF 70%), 
hypertrophied right ventricular free wall, dilated right 
ventricular cavity with borderline normal free wall function, 
abnormal systolic septal motion/position consistent with right 
ventricular pressure overload, moderately thickened aortic valve 
leaflets with a minimally increased gradient consistent with 
minimal aortic valve stenosis, mildly thickened mitral valve 
leaflets, left ventricular inflow pattern suggesting impaired 
relaxation, mildly thickened tricuspid valve leaflets with 
moderate to severe [3+] tricuspid regurgitation, and severe 
pulmonary artery systolic hypertension. Cardiac enzymes were 
trended with no elevation in her CK's threfore this was felt not 
to be cardiac ischemia.
.
2) Pulmonary Embolus - On hospital day 2, the patient had 
low-grade fever, tachycardia, worsening hypoxemia with resting 
oxygen saturation in the mid 90's on 6 L NC, new T-wave 
inversions in V3 and deeper T-wave inversions in V4. CTA of the 
chest revealed right middle lobe segmental pulmonary emboli, 
right middle lobe pulmonary infarct vs. atelectasis, moderate 
bilateral pleural effusions, and volume overload. Heparin and 
lasix infusions were started. Lower extremity doppler ultrasound 
was negative for DVT.
.
3) Left femoral neck fracture - Seen in consultation by 
orthopaedic surgery who recommended proceeding with ORIF. 
However, based on the preference of the patient and her family, 
she was transferred to ___ for further management.

 

 
Medications on Admission:
Celexa 10mg PO daily
Omeprazole 20mg PO daily
Senna 2 tabs daily at 4pm
Lisinopril 5 mg PO daily
Lidoderm 5% patch, one patch to lower back 12 hrs each day
Calcium with Vit D 600mg PO BID
Tylenol ___ Q4hrs PRN for pain
Compazine 10mg PO BID PRN nausea/vomiting
Ibuprofen prn

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours): do not exceed 4 grams in 24 hours.  
2. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
3. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): place 
on between 8 AM and 8 ___ then remove.  
5. Heparin (Porcine) in NS 10 unit/mL Kit Sig: ASDIR units 
Intravenous every six (6) hours: Diagnosis: Pulmonary Embolism
Patient Weight: 40.824 kg
Initial Bolus: 1000 units IVP
Initial Infusion Rate: 750 units/hr
Target PTT: 60 - 100 seconds

PTT <40: 1600 units Bolus then Increase infusion rate by 150 
units/hr
PTT 40 - 59: 800 units Bolus then Increase infusion rate by 100 
units/hr
PTT 60 - 100*:
PTT 101 - 120: Reduce infusion rate by 100 units/hr
PTT >120: Hold 60 mins then Reduce infusion rate by 150 
units/hr.  
6. Furosemide 10 mg/mL Solution Sig: 2.5 mg Injection INFUSION 
(continuous infusion).  
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  
8. Calcium Carbonate 500 mg (1,250 mg) Capsule Sig: One (1) 
Capsule PO once a day.  
9. Vitamin D 400 unit Tablet Sig: Two (2) Tablet PO once a day.  


 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
1) Left femoral neck fracture 
2) Pulmonary embolus
3) Pleural effusions
4) Pulmonary hypertension
5) Tricuspid regurgitation
6) Emphysema

 
Discharge Condition:
Transfer to ___.

 
Discharge Instructions:
You were admitted to the hospital following a fall and left hip 
fracture. You declined surgery at ___ and were transferred to 
___ at your request.

You were diagnosed with blood clots in the lung, also known as 
pulmonary emboli, and were started on blood thinning medication.
 
Followup Instructions:
___